US09034866B2
10-bromo-3-cyclopropyl-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (R)-2-(5-methyl-1,2,4-oxadiazol-3-yl)but-3-yn-2-ol via General Procedure E to yield 8.2 mg (14%) of 3-cyclopropyl-9-fluoro-10-[(3R)-3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-ynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide.

reactant | 10-bromo-3-cyclopropyl-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3CC3)C1)F | C15H13BrFN3O2
reactant | (R)-2-(5-methyl-1,2,4-oxadiazol-3-yl)but-3-yn-2-ol | CC1=NC(=NO1)[C@@](C)(C#C)O | C7H8N2O2
product | 3-cyclopropyl-9-fluoro-10-[(3R)-3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-ynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 8.2 mg, 14% | C1(CC1)C1=C(N=C2N1CCOC1=C2C=C(C(=C1)F)C#C[C@](C)(C1=NOC(=N1)C)O)C(=O)N | C22H20FN5O4
